OpenCircuit factory test: MMBT3904 DC gain
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pdf/datasheet/mmbt3904lt1-d.pdf
* Revision: August 2021 Rev. 14
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_MMBT3904 NPN(IS=2.0666495739e-14 NF=1.0000000000e0 BF=4.7644306076e2 IKF=1.9795330576e-2 ISE=3.6733820394e-13 NE=1.5175522187e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=5.6174624140e0 RE=1.0000000856e-4 RC=2.7191520669e0 CJE=9.4689118679e-12 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=7.8339385963e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=4.6475853780e-10 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)
.temp 25

VCG1 cg1 0 DC 1.0000000000e0
IBG1 0 bg1 DC 1.1111111111e-6
QG1 cg1 bg1 0 OC_ONSEMI_MMBT3904
VCG2 cg2 0 DC 1.0000000000e0
IBG2 0 bg2 DC 7.1428571429e-6
QG2 cg2 bg2 0 OC_ONSEMI_MMBT3904
VCG3 cg3 0 DC 1.0000000000e0
IBG3 0 bg3 DC 5.0000000000e-5
QG3 cg3 bg3 0 OC_ONSEMI_MMBT3904
VCG4 cg4 0 DC 1.0000000000e0
IBG4 0 bg4 DC 4.5454545455e-4
QG4 cg4 bg4 0 OC_ONSEMI_MMBT3904
VCG5 cg5 0 DC 1.0000000000e0
IBG5 0 bg5 DC 1.8518518519e-3
QG5 cg5 bg5 0 OC_ONSEMI_MMBT3904
.op
.end
